US05290888
1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl 2-ethylhexanoate;
the phosphorus acid salt of bis(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate.

reactant | phosphorus | [P] | P
reactant | bis(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
product | 1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl 2-ethylhexanoate | C(C)C(C(=O)OC1CC(N(C(C1)(C)C)O)(C)C)CCCC | C17H33NO3
